US06582351B1
To a solution of 3-chloro-4-methoxybenzaldehyde (156 g) in a mixture of ethanol (750 ml) and tetrahydrofuran (500 ml) was added sodium borohydride (25 g) under ice-cooling. After stirring at ambient temperature for 2 hours, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, 1N-hydrochloric acid, water, aqueous sodium bicarbonate and brine, successively, and dried over magnesium sulfate. Evaporation of the solvent gave 3-chloro-4-methoxybenzyl alcohol (164 g) as a yellow oil.

reactant | 3-chloro-4-methoxybenzaldehyde | 156 g | ClC=1C=C(C=O)C=CC1OC | C8H7ClO2
reactant | sodium borohydride | 25 g | [BH4-].[Na+]
solvent | ethanol | 750 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3-chloro-4-methoxybenzyl alcohol | 164 g | ClC=1C=C(CO)C=CC1OC | C8H9ClO2
